US07129235B2
methyl 1-benzyl-5-thioxo-2-pyrrolidinecarboxylate
Methyl 1-benzyl-5-oxo-2-pyrrolidinecarboxylate (18.15 g, 77.8 mmol) and Lawesson's reagent (31.5 g, 77.9 mmol) were combined in dry tetrahydrofuran (100 mL) and stirred overnight at room temperature. The mixture was filtered, the filter cake was rinsed with tetrahydrofuran, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic phase was concentrated under reduced pressure and the residue was purified by chromatography on silica gel (3:1, hexanes:ethyl acetate) to provide the title compound. MS (ESI) m/z: 250 (M+H)+; 1H NMR (CDCl3) δ 2.17 (m, 1H), 2.27 (m, 1H), 3.15 (m, 2H), 3.69 (s, 3H), 4.30 (dd, 1H), 4.37 (d, 1H), 5.73 (d, 1H), 7.32 (m, 5H).

reactant | Methyl 1-benzyl-5-oxo-2-pyrrolidinecarboxylate | 77.8 mmol, 18.15 g | C(C1=CC=CC=C1)N1C(CCC1=O)C(=O)OC | C13H15NO3
reactant | Lawesson's reagent | 77.9 mmol, 31.5 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 1-benzyl-5-thioxo-2-pyrrolidinecarboxylate | C(C1=CC=CC=C1)N1C(CCC1=S)C(=O)OC | C13H15NO2S
